US04542132
n-Butyl lithium (7.3 cm3 of a 1.6M solution in hexane) was added at 0° to a stirred suspension of trimethyl sulphonium iodide (2.45 g) in THF (40 cm3) under nitrogen. After 5 minutes 4-propionylpyridine (1.35 g) in THF (5 cm3) was added, the mixture was allowed to warm to room temperature over 1.5 hours, water (20 cm3) was added and volatile material was removed in vacuo. The residue was partitioned between ether and water, the ethereal layer was dried (MgSO4) and evaporated and the residue was chromatographed on silica ("Merck" 60.9385) eluting with methanol:chloroform, 1:49, to give 2-ethyl-2-(4-pyridyl)oxirane as an oil (0.6 g). This material was taken without further purification into DMF (5 cm3) and treated with a solution of 2-sodioisothiazolidine-1,1-dioxide [made from isothiazolidine-1,1-dioxide (0.6 g) and sodium hydride (0.30 g of a 50% dispersion in oil)] in DMF (2 cm3) at 100° for 4 hours. Volatile material was removed in vacuo, the residue was partitioned between ethyl acetate (20 cm3) and water (10 cm3) and the aqueous phase was further extracted with ethyl acetate (2×20 cm3). The combined extracts were dried (MgSO4) and evaporated, and the residue was chromatographed on silica ("Merck" 60.9385) eluting with methanol:chloroform, 1:49, to afford 2-[2-(4-pyridyl)-2-hydroxy]but-1-ylisothiazolidine-1,1-dioxide as an oil.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | trimethyl sulphonium iodide | 2.45 g | [I-].C[S+](C)C
reactant | 4-propionylpyridine | 1.35 g | C(CC)(=O)C1=CC=NC=C1 | C8H9NO
reactant | water | 20 cm3 | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 40 cm3 | C1CCOC1 | C4H8O
solvent | THF | 5 cm3 | C1CCOC1 | C4H8O
product | 2-ethyl-2-(4-pyridyl)oxirane | 0.6 g | C(C)C1(OC1)C1=CC=NC=C1 | C9H11NO
